Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am not feeling good"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Dr. ___ initial psychiatric evaluation in the ED was
reviewed. To briefly summarize: 

This is a ___ yo male, originally from ___, with no formal
psychiatric treatment or significant medical history, currently
enrolled as a graduate student at ___ who was initially sent 
from
___ counseling services after voicing suicidal ideation
with plan to overdose or drown himself in the river. 

He endorses neurovegetative symptoms of depression that he has
experienced for several years, with acute worsening over the 
past
two weeks due to increasing work load, family difficulties, and 
a
recent breakup with a significant other. 

He developed a plan to kill himself two days ago, contemplating
that he would require a plan that would not cause any pain, such
as drowning in the river or overdosing on medications. He
describes intrusive suicidal thoughts and dreams that he would
kill himself. He has also recently engaged with superficial
cutting earlier this week, most recently yesterday, with the
intent to "remove the pain from his ___ He endorsed that he
did not feel safe at this time and wished to have someone
accompany him to ensure that he did not kill himself. 

In the ED, he was in good behavioral control. He did not receive
any medications. 

On interview to the unit, he continues to endorse ongoing
suicidal thoughts and depressive symptoms, though states that he
does not have any intent or plan to act on any self-injurious
behaviors at the moment. He feels that he would be able to
verbalize distress should his suicidal thoughts get worse to the
treatment staff. 

REVIEW OF SYSTEMS:
 -Psychiatric: 
+Anhedonia
+Insomnia
+Worthlessness
+Fatigue
+decreased concentration

+Nightly nightmares and weekly flashbacks about abuse from
childhood
Denies manic/psychotic sx

 -General: 
+Headache

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
No formal diagnosis or treatment, though reports feeling
depressed for years
Hospitalizations: none
Psychiatrist: None
Therapist: None
Medication trials: None
Self-injurious behavior/suicide attempts: reports history of
cutting ___ years and recently (superficial cutting most recently
yesterday),
SA via stabbing himself with a knife in the chest when he was in
___ 
Harm to others: Denies
Trauma: Hx of physical and verbal abuse during childhood

PAST MEDICAL HISTORY:
- PCP: ___
- ___ trauma: Denies
- Seizures: Denies
- PMHx: Denies                   

HOME MEDICATIONS:
None

Allergies  (Last Verified ___ by ___:
NKDA
 
Social History:
SUBSTANCE USE HISTORY:
Denies
-Alcohol
-Cannabis
-Cocaine
-Heroin

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
Patient is unaware of any psychiatric illness or suicide in his
family
 
Physical Exam:
T: 98.9
BP: 115/77
HR: 79
RR: 16
O2 Sat: 98% RA

EXAM:

General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear. No scleral icterus, 
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 3mm, equal, round
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: 2+ patellar, biceps, 
 Coordination: Normal on finger to nose test, no intention 
tremor
noted
 -Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not 
formally
tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min 
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___, ___, 
___
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "I can't do that." 
     - bicycle/train: "transportation" 
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
CBC reviewed, unremarkable
BMP reviewed, WNL
Serum tox: negative x 4
Urine tox: negative x 7

___ 03:10PM BLOOD WBC-6.7 RBC-4.72 Hgb-14.5 Hct-45.5 MCV-96 
MCH-30.7 MCHC-31.9* RDW-13.2 RDWSD-47.6* Plt ___
___ 03:10PM BLOOD Neuts-64.7 ___ Monos-5.1 Eos-3.9 
Baso-0.9 Im ___ AbsNeut-4.32 AbsLymp-1.69 AbsMono-0.34 
AbsEos-0.26 AbsBaso-0.06
___ 03:10PM BLOOD Glucose-125* UreaN-12 Creat-0.9 Na-141 
K-3.7 Cl-105 HCO3-21* AnGap-15
___ 07:05AM BLOOD %HbA1c-5.5 eAG-111
___ 07:05AM BLOOD Triglyc-73 HDL-48 CHOL/HD-2.3 LDLcalc-___. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on  q15minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. He did not 
require physical or chemical restraints during this 
hospitalization. 
 
2. PSYCHIATRIC:
Upon admission, the patient endorsed ongoing neurovegetative 
symptoms of depression and intrusive suicidal
thoughts that were quite distressing to him. However, he did not 
have any specific intent to harm himself while on the unit. Pt 
stated that the thing which likely caused him to destabilize was 
his girlfriend breaking up with him - but prior to that he was 
overwhelmed by his course load and the need to find a 
competitive COOP which paid, perform well in school, and 
remembering of childhood physical discipline/abuse. He further 
reported having ___ panic attacks in the past few weeks, which 
he characterized as having racing thoughts, muscle tension, 
tremulousness, n/v, palpitations, and crying. Notably he also 
described being fearful of having another panic attack. 

The patient’s presentation was concerning for major depressive 
disorder with consideration of panic disorder and PTSD.

The patient was started on Zoloft 25 mg daily to address sx's of 
anxiety. The patient tolerated the change in dose well and found 
it to be helpful for his mood. However, pt has difficulty with 
emotional dysregulation and distress tolerance, and would 
significantly benefit from outpatient therapy.

At time of discharge, patient noted improvement in his mood, 
concentration, sleep, appetite, and energy. He no longer 
endorsed SI, and reflected back to his SI and previous SA, 
stating that thoughts often occur when feeling overwhelmed and 
in "chaos." He denied ever having deliberate plans, but rather 
attempts and thoughts occur impulsively. Pt was able to 
verbalize coping methods available to him at home including 
thinking of reasons to live, distraction, and deep breathing. Pt 
further demonstrated willingness and preserved capacity to 
participate in safety planning (calling friends, outpatient 
providers, and then 911).

3. SUBSTANCE USE DISORDERS:
N/A
 
4. MEDICAL
N/A
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was often visible in the 
milieu and was appropriate in his interaction with peers and 
staff without ever requiring restraint or seclusion. 
 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient was provided with the opportunity to discuss diagnosis 
and treatment with his family, however patient declined 
involvement of family.
 
#) INTERVENTIONS
- Medications: Zoloft
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: outpatient psychiatry, therapy f/u
- Behavioral Interventions: encourage DBT skills (emotional 
regulation, distress tolerance)
- Guardianships: N/A
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  
 
RISK ASSESSMENT & PROGNOSIS
 
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon SI.  His/her risk 
factors noted at that time included history of suicide attempts, 
chronic mental illness, history of abuse, history of 
self-injurious behavior, male gender, single relationship 
status, suicidal ideation with plan, impulsivity, poorly 
controlled mental illness, no established outpatient providers, 
hopelessness, insomnia, recent self-injurious behaviors, recent 
personal loss (with breakup), and limited coping skills. 
Modifiable risk factors were addressed during hospitalization 
via medication management, psychotherapeutic intervention, and 
aftercare coordination.  The patient is being discharged with 
many protective risk factors, including age, help-seeking 
behavior, no
chronic substance use, no access to lethal weapons, and 
reality-testing ability. Given the above, my overall assessment 
is that the patient's suicide risk at time of discharge is low.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
R/o Panic Disorder
R/o PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

During the interview on ___ (performed with occasional 
assistance of interpreter),  patient denied any new complaints. 
He expressed wishes to be discharged today. He clearly denied 
SI/HI. Patient reported positive plans for the future: he would 
like to resume his studies. Pt was able to discuss appropriate 
steps in case of emergency (calling friends, providers, calling 
911 or presenting to the ED). Pt reflected upon his positive 
experience with treatment. Patient and team had expressed mutual 
appreciation of our work. Mr. ___ seemed to enjoy meeting, he had 
bright affect, appropriate to topics of conversation. He 
exchanged genuine smile.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___